US07169541B2
12.4 g of 5-hydroxy methyl-2-norbornene and 300 ml of methylene chloride were put in a flask, and 28.7 g (75% content) of m-chloro perbenzoic acid was dropped therein at 30° C. After completion of dropping, it was agitated at the temperature for 1 hour, then it was cooled to 0° C., and the precipitated benzoic acid was removed by filtration. The filtrate was washed with an aqueous solution of sodium sulfite, an aqueous solution of sodium bicarbonate, and then the organic layer was concentrated under a reduced pressure. The resultant crude 2,3-epoxy-5-hydroxy methyl norbornane, 100 ml of toluene and a catalytic amount of a concentrated sulfuric acid were put in a flask, and agitated at 50° C. for 2 hours. Then, usual after-treatment was carried out to yield 10.1 g of 2-hydroxy-4-oxatricyclo[4.2.1.03,7]nonane.

reactant | 5-hydroxy methyl-2-norbornene | 12.4 g | OCC1C2C=CC(C1)C2 | C8H12O
reactant | m-chloro perbenzoic acid | 28.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-4-oxatricyclo[4.2.1.03,7]nonane | 10.1 g | OC1C2CC3C(COC13)C2 | C8H12O2
